US09169259B2
A mixture of methyl 3-(8-bromoimidazo[1,2-b]pyridazin-6-yl)benzoate (288 mg, 0.87 mmol), 6-(2-methylpyrrolidin-1-yl)pyridin-2-amine (230 mg, 1.3 mmol), Pd2(dba)3 (50 mg, 0.087 mmol), BINAP (217 mg, 0.348 mmol), Cs2CO3 (851 mg, 2.61 mmol) and dioxane (20 mL) was heated to 100° C. with stirring for 16 h under N2. The solvent was removed in vacuo and the resulting mixture was purified by chromatography (silica gel, 200-300 mesh, CH2Cl2:MeOH=100:1) to give methyl 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridine-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate (240 mg, 64%) as a yellow solid. 1H NMR (300 MHz, CDCl3): δ 8.72 (s, 1H), 8.60 (s, 1H), 8.19-8.08 (m, 3H), 7.92 (s, 1H), 7.59-7.54 (m, 2H), 7.41 (t, 1H, J=8.1 Hz), 6.20 (d, 1H, J=7.5 Hz), 6.03 (d, 1H, J=8.1 Hz), 4.27-4.23 (m, 1H), 3.99 (s, 3H), 3.69-3.63 (m, 1H), 3.53-3.43 (m, 1H), 2.15-1.99 (m, 3H), 1.99 (brs, 1H), 1.21 (d, 3H, J=6.3 Hz). LC-MS: [M+H]+, 429, tR=2.055 min, HPLC: 96.86% at 214 nm, 96.95% at 254 nm, tR=3.763 min.

reactant | methyl 3-(8-bromoimidazo[1,2-b]pyridazin-6-yl)benzoate | 0.87 mmol, 288 mg | BrC=1C=2N(N=C(C1)C=1C=C(C(=O)OC)C=CC1)C=CN2 | C14H10BrN3O2
reactant | 6-(2-methylpyrrolidin-1-yl)pyridin-2-amine | 1.3 mmol, 230 mg | CC1N(CCC1)C1=CC=CC(=N1)N | C10H15N3
reactant | BINAP | 0.348 mmol, 217 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 2.61 mmol, 851 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.087 mmol, 50 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | methyl 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridine-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate | 240 mg, 64% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)OC)C=CC1)C=CN2 | C24H24N6O2
